US09145354B2
Step 1 To a solution of 6-chloro-2-fluoro-3-methyl-benzoyl chloride (2.07 g, 10.0 mmol) in anhydrous tetrahydrofuran (50 ml), stirred under nitrogen in an acetonitrile/CO2 bath, was added tributyl phosphine (2.75 ml, 11.0 mmol). The mixture was stirred for 15 minutes before phenylmagnesium bromide (3M in diethyl ether, 3.67 ml, 11.0 mmol) was added dropwise. After 45 minutes, the reaction was quenched by addition of hydrochloric acid (2N, 50 ml). The mixture was extracted with ethyl acetate. The organic liquors were washed with sodium bicarbonate solution and brine, dried (MgSO4) and concentrated in vacuo. The residue was purified by silica chromatography eluting with 0-10% diethyl ether/petroleum ether furnishing (6-chloro-2-fluoro-3-methyl-phenyl)-phenyl-methanone as a yellow oil that slowly crystallised (1.12 g, ca. 80% pure). Trituration with petroleum ether produced an analytically pure sample. MS: [M+H]+ 249

reactant | 6-chloro-2-fluoro-3-methyl-benzoyl chloride | 10.0 mmol, 2.07 g | ClC1=CC=C(C(=C1C(=O)Cl)F)C | C8H5Cl2FO
reactant | tributyl phosphine | 11.0 mmol, 2.75 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | phenylmagnesium bromide | 11.0 mmol, 3M, 3.67 ml | C1(=CC=CC=C1)[Mg]Br
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | (6-chloro-2-fluoro-3-methyl-phenyl)-phenyl-methanone | ClC1=CC=C(C(=C1C(=O)C1=CC=CC=C1)F)C | C14H10ClFO
